2104-12-06 07:59:00 Physician Resident Progress Note
Chief Complaint:  Pneumonia.  Feels breathing is slightly more
   comfortable this am.  Still has CP with deep inspiration and with
   cough.  Reports cough is still nonproductive.
   24 Hour Events:  A.fib with [** **] intermittently into 150s requiring
   multiple pushes of IV metoprolol with improvement in HR to low 100s.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash; Wheezing;
   Tetracyclines
   Rash; Wheezing;
   Erythromycin Base
   Rash;
   Optiray 350 (Intraven.) (Ioversol)
   Hives;
   Lisinopril
   Unknown;
   Diltiazem
   Unknown;
   Bee Sting Kit
   Unknown;
   Citrus Derived
   Unknown;
   Fish Product Derivatives
   Unknown;
   Shellfish Derived
   Unknown;
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2104-12-6**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-6**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 90 (89 - 145) bpm
   BP: 101/58(68) {91/39(53) - 121/88(92)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                    926 mL
                                                                    834 mL
   PO:
                                                                    180 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    746 mL
                                                                    654 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    245 mL
   Urine:
                                                                    595 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    331 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   12.6 g/dL
   135 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   30 mg/dL
   106 mEq/L
   140 mEq/L
   35.9 %
   14.3 K/uL
        [image002.jpg]
                            [**2104-12-5**]  01:24 PM
                            [**2104-12-6**]  05:00 AM
   WBC
   14.3
   Hct
   38.2
   35.9
   Plt
   188
   Cr
   0.9
   Glucose
   135
   Other labs: PT / PTT / INR:29.0/39.2/2.9, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 7175**] is a 67 year old female with history of atrial fibrillation
   on coumadin, CAD, HTN, prior CVA ([**10-17**]), asthma, DM2 who awoke with
   acute onset of stabbing chest pain and shortness of breath this AM
   found to be in AF with [**Month/Year (2) **] now s/p cardioversion with new hypotension
   this morning.
   .
   #. Hypotension:  Exact etiology not entirely clear and likely
   multifactorial in the setting of a. fib with [**Month/Year (2) **], meds, diuresis and
   possible underlying infection (Ucx from admission showed 1000
   enterococcus).  HR remains in the 120s where it has been throughout
   (even faster previously) and she had maintained BPs until this morning
   which suggests it is less likely her rate causing the acute drop in
   BP.  She was amio loaded yesterday and received multiple x1 doses of
   metoprolol so med effect on BP certainly possible.  Additionally, she
   was febrile on presentation to the ED and initial UCx showed
   enterococcus (only 1000 colonies at that time, however) so infection is
   certainly a possibility.  CXR today does show increase in LLL and right
   middle lobe opacification concerning for pneumonia; ? aspiration during
   cardioversion.  She does also have new leukocytosis which is somewhat
   difficult to interpret as it started after prednisone dose.  Does seem
   higher bump than would expect from 1 time steroid dose alone so
   infection may be contributing.  She does also have diffuse abdominal
   pain >RUQ which she says is chronic, but is certainly notable on exam
   making intraabdominal infection possible.  LFTs, however are normal
   making cholecystitis or ascending cholangitis less likely.  No e/o
   acute blood loss.
   - Continue levofloxacin for possible pneumonia; will add vanco as well
   pending repeat UA/UCx given enterococcus on initial UCx
   - check hct now
   - add on lipase
   - Monitor abdominal exam
   - Consider further imaging with CT abdomen/pelvis if change in
   abdominal exam
   - Trend lactate
   .
   #. Fever: T to 101.5 in the ED with low grade temps on the floor. No
   clear source of infection as she has no localizing symptoms beyond
   abdominal discomfort that she reports is chronic.  LFTs normal.  CXR
   without infiltrate and she is without cough.  UA from presentation was
   negative, but culture did grow 1000 enterococcus (? contaminant or
   early infection).  Blood cultures to date have shown no growth.
   - Follow up micro data
   - f/u final read of repeat CXR
   .
   #. Leukocytosis:  WBC count was normal on presentation.  She received a
   x1 of prednisone on [**12-3**] with subsequent rise in WBC count.  ? steroid
   related or in the setting of infection.  Does have 90% neutrophilia, no
   bands.
   - infection w/u as above
   .
   #. Rhythm: Long standing history of atrial fibrillation on coumadin.
   INR currently supratherapeutic at 3.1 likely in the setting of
   antibiotics.  Because she has maintained her BPs even when HR was
   faster than at present, her a.fib seems unlikely to be causing her
   hypotension currently.  The medications that she is receiving for rate
   control, however, may be causing/contributing to her hypotension.
   - Hold coumadin today, follow INR
   - Monitor on telemetry
   - Continue beta [**Month/Year (2) 368**], titrate up as tolerated
   - Consider repeat cardioversion if further HD compromise
   .
   #. CAD: Had chest pain this AM however occurred in setting of AF with
   [**Month/Year (2) **]. No history of stress test in our records. Reported CAD on medical
   history but unclear details.  CEs showed positive trop with peak 0.14
   now 0.10 and likely demand in the setting of [**Month/Year (2) **] vs. post
   cardioversion.  EKG largely unchanged from prior although does show
   some slightly more pronounced STD laterally with rate of 104.
   - Continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**]
   .
   #. Pump: EF normal in [**2102**] however now with elevated BNP and crackles
   at right base following 1.5L IVF in ED.  Also with new O2 requirement
   and e/o pulmonary edema on CXR [**12-3**], now improved on CXR today.  Just
   received additional IVFs on the floor for hypotension (2L).
   - Monitor volume status
   - Hold on diuresis given hypotension
   - Should have nonurgent repeat TTE
   .
   # Stage 2 decub ulcer:
   .
   #. DM2:
   - Insulin sliding scale
   - Diabetic diet
   .
   # Hypertension: Actually hypotensive on the floor, but now SBPs
   improved to low 100s currently.  Given a. fib with [**Last Name (LF) **], [**First Name3 (LF) 178**] continue
   her metoprolol for now.
   - Continue metoprolol
   .
   # Asthma: No wheezes on exam.
   - Continue advair
   .
   # s/p CVA:  No active issues.
   .
   # Hypothyroidism:  TSH 4 on admission.
   - Continue levoxyl
   .
   #. FEN: Follow and replete electrolytes. Cardiac diabetic diet.
   .
   #. Access: PIV.
   .
   #. PPx: PO diet, supratherapeutic INR.
   .
   #. Code: FULL.
   .
   #. Dispo: Pending improvement in BP.

2104-12-07 07:24:00 Physician Resident Progress Note
Chief Complaint: A. Fib with [** **]
   24 Hour Events:
   - Continued to be tachycardic w/o optimal rate control
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash; Wheezing;
   Tetracyclines
   Rash; Wheezing;
   Erythromycin Base
   Rash;
   Optiray 350 (Intraven.) (Ioversol)
   Hives;
   Lisinopril
   Unknown;
   Diltiazem
   Unknown;
   Bee Sting Kit
   Unknown;
   Citrus Derived
   Unknown;
   Fish Product Derivatives
   Unknown;
   Shellfish Derived
   Unknown;
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-6**] 09:06 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-6**] 09:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Respiratory: no sOB
   Flowsheet Data as of  [**2104-12-7**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.2
   HR: 134 (87 - 138) bpm
   BP: 104/59(69) {92/55(69) - 128/6,370(111)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86 kg (admission): 84.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,951 mL
                                                                     72 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                  1,011 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    886 mL
                                                                    215 mL
   Urine:
                                                                    886 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,065 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   200 K/uL
   12.6 g/dL
   122 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   27 mg/dL
   105 mEq/L
   139 mEq/L
   36.5 %
   12.5 K/uL
        [image002.jpg]
                            [**2104-12-5**]  01:24 PM
                            [**2104-12-6**]  05:00 AM
                            [**2104-12-6**]  02:30 PM
                            [**2104-12-7**]  02:46 AM
   WBC
   14.3
   12.5
   Hct
   38.2
   35.9
   39.2
   36.5
   Plt
   188
   200
   Cr
   0.9
   0.9
   TropT
   0.01
   Glucose
   135
   122
   Other labs: PT / PTT / INR:33.7/38.7/3.5, CK / CKMB /
   Troponin-T:84//0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: [**12-5**] Increase in LLL and right middle lobe opacification
   concerning for pneumonia.
   Signs of overhydration have resolved.
   Microbiology: No new growth
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 .H/O ADVERSE DRUG EVENT (ADR, ADE, MEDICATION TOXICITY)
 .H/O CHEST PAIN
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
   Assessment and Plan
   Ms. [**Known lastname 7175**] is a 67 year old female with history of atrial fibrillation
   on coumadin, CAD, HTN, prior CVA ([**10-17**]), asthma, DM2 who awoke with
   acute onset of stabbing chest pain and shortness of breath this AM
   found to be in AF with [**Month/Year (2) **] now s/p cardioversion with persistent
   difficulty with rate control.
   .
   #. Hypotension:  SBPs stable in the ICU in the 100s-120s.  Likely
   multifactorial in setting of infection, meds for a.fib, s/p diuresis on
   the floor.  Received 2L prior to tx to ICU and additional 1L overnight
   with stability in BP.  Has chronic abdominal discomfort, but nonfocal
   exam and normal LFTs and lipase.
   - Continue levofloxacin for pneumonia
   - Monitor abdominal exam
   .
   # Pneumonia:  New infiltrates on CXR from [**12-5**].   Admission CXR did
   not show e/o infiltrate, but she was already febrile on presentation
   with new O2 requirement so suspect pneumonia was already brewing as
   opposed to post cardioversion/aspiration.
   - Levofloxacin; will continue for total 5 days
   - prn nebs
   - Incentive spirometry
   -f/u culture data
   .
   #. Fever:  Has been afebrile in the ICU.   T to 101.5 in the ED with
   low grade temps on the floor.   Appears to be in the setting of
   pneumonia with new infiltrates on CXR yesterday.  UA from presentation
   was negative, but culture did grow 1000 enterococcus with repeat UA
   yesterday overall unremarkable.  Blood cultures to date have shown no
   growth.
   - Follow up micro data
   - continue Levofloxacin for pneumonia
   .
   #. Leukocytosis:  WBC count was normal on presentation.  She received a
   x1 of prednisone on [**12-3**] with subsequent rise in WBC count.  ? steroid
   related or in the setting of infection.  Does have 90% neutrophilia, no
   bands.  WBC count improved today.
   - Levofloxacin for pneumonia
   - f/u blood, urine, sputum culture (has been thus far unable to produce
   sputum cx)
   .
   # Anemia:  From normal baseline.  Suspect in part d/t hemodilution from
   IVFs upon tx to ICU.  No e/o bleeding.
   - pm hct
   .
   #. Rhythm: Long standing history of atrial fibrillation on coumadin.
   Echo with large atria so seems unlikely to maintain sinus rhythm if
   cardioverted.  Also, underlying pneumonia likely driving a.fib with
   [**Month/Year (2) **].  INR down to 2.9 from 3.1.  Because she has maintained her BPs
   even when HR was faster than at present, her a.fib seems unlikely to be
   causing her presenting hypotension.
   - continue low dose coumadin given now on amiodorone and Levofloxacin
   both of which will interact; follow coags
   - Monitor on telemetry
   - tolerating beta-[**Month/Year (2) 368**], but w/o improvement in HR.  Consider further
   uptitration of metoprolol vs. digoxin vs. diltiazem desensitization,
   question cardioversion
   - Treating underlying pneumonia
   .
   #. CAD: Had chest pain on presentation however occurred in setting of
   AF with [**Month/Year (2) **]. No history of stress test in our records. Reported CAD on
   medical history but unclear details.  CEs showed positive trop with
   peak 0.14 now 0.10 and likely demand in the setting of [**Month/Year (2) **] vs. post
   cardioversion.  EKG largely unchanged from prior although does show
   some slightly more pronounced STD laterally with rate of 104.
   - Continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**]
   - Checking lipid panel
   .
   #. Pump: EF normal in [**2102**] with repeat echo yesterday showing LVEF
   40-45%.  TTE also showed dilated atria.
   - Monitor volume status
   - Hold on diuresis for now given recent hypotension
   .
   # Chest discomfort:  Pleuritic in nature and likely multifactorial in
   setting of pneumonia and also cardioversion.
   - continue acetaminophen prn
   .
   # Stage 2 decub ulcer:  ? decub vs. trauma from bed pain.
   - daily wound care
   .
   #. DM2:
   - Insulin sliding scale
   - Diabetic diet
   .
   # Hypertension: Actually hypotensive on the floor, but now SBPs stable
   in the 100s-120s.  Given a. fib with [**Last Name (LF) **], [**First Name3 (LF) 178**] continue her metoprolol
   for now.
   - Continue metoprolol
   .
   # Asthma: No wheezes on exam currently.
   - Continue advair
   - continue nebs prn in setting of pneumonia; ipratropium given
   tachycardia
   .
   # s/p CVA:  No active issues.
   .
   # Hypothyroidism:  TSH 4 on admission.
   - Continue levoxyl
   .
   #. FEN: Follow and replete electrolytes. Cardiac diabetic diet.
   .
   #. Access: PIV.
   .
   #. PPx: PO diet, therapeutic INR.
   .
   #. Code: FULL.
   .
   #. Dispo: Pending improvement in rate control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-6**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-08 08:08:00 Physician Resident Progress Note
Chief Complaint: Afib w/RVR
   24 Hour Events:
   Increased amiodarone to 400 TID per cardiology
   Persistent Afib w/RVR but slightly improved
   Hemodynamically stable
   New rash R forearm
   History obtained from Patient
   Allergies:
   History obtained from PatientBactrim (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Rash; Wheezing;
   Tetracyclines
   Rash; Wheezing;
   Erythromycin Base
   Rash;
   Optiray 350 (Intraven.) (Ioversol)
   Hives;
   Lisinopril
   Unknown;
   Diltiazem
   Unknown;
   Bee Sting Kit
   Unknown;
   Citrus Derived
   Unknown;
   Fish Product Derivatives
   Unknown;
   Shellfish Derived
   Unknown;
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-6**] 09:06 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-7**] 08:40 PM
   Other medications:
   Levoflox 750 daily (day 1= [**12-6**])
   amiodarone 400mg TID
   Lopressor 100mg TID
   flonase
   Sertraline 50mg
   Colace
   levothyroxine 25 mcg
   aspirin 81mg
   Advair [**Hospital1 **]
   Insulin SS
   Lactulose
   Acyclovir 800 TID (day 1= [**12-7**])
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Integumentary (skin): Rash
   Flowsheet Data as of  [**2104-12-8**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 113 (101 - 139) bpm
   BP: 99/63(72) {95/50(60) - 123/107(110)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 84.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,130 mL
                                                                    108 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    490 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    230 mL
   Urine:
                                                                    875 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: mild erythema of R forearm near IV, R back with
   vessicles on erythematous base
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   203 K/uL
   12.4 g/dL
   114 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   137 mEq/L
   36.0 %
   10.8 K/uL
        [image002.jpg]
                            [**2104-12-5**]  01:24 PM
                            [**2104-12-6**]  05:00 AM
                            [**2104-12-6**]  02:30 PM
                            [**2104-12-7**]  02:46 AM
                            [**2104-12-8**]  04:03 AM
                            [**2104-12-8**]  06:05 AM
   WBC
   14.3
   12.5
   10.8
   Hct
   38.2
   35.9
   39.2
   36.5
   36.0
   Plt
   188
   200
   203
   Cr
   0.9
   0.9
   0.9
   TropT
   0.01
   Glucose
   135
   122
   114
   Other labs: PT / PTT / INR:36.8/38.7/3.9, CK / CKMB /
   Troponin-T:84//0.01, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Microbiology: No new data
   Radiology: CXR [**12-5**] -
   Increase in LLL and right middle lobe opacification concerning for
   pneumonia.
   Signs of overhydration have resolved.
   Assessment and Plan
   # Leukocytosis/hypotension
 resolved. Leukocytosis likely [**1-12**] pneumoia
   (see below), and hypotension could be from infection (sepsis) vs afib
   (see below)
   - cont to monitor
   # Afib with RVR
   -          increased amio per cards, slight improvement
   -          cont metoprolol
   -          EP saw patient, did not recommend cardioversion
   -          Trial of verapamil 5mg IV; it tolerates (allergic to
   diltiazem), give 60mg PO TID verapamil
   -          INR supratherapeutic, holding coumadin
   -          BP stable
   -
   # CAD:  CP on admission improved.  Likely [**1-12**] afib with RVR.  Trop peak
   to 0.14, now normal at 0.01.  ECG largely unchanged
   # Pump: EF 40-45% by echo [**12-5**].  Was normal in [**2102**].
   -          monitor volume status
   -          on lasix at home; but poor urine output overnight, so will
   bolus 500cc saline
   # Rash on back: Does not look like zoster.  Stop acyclovir.
   # Rash on right forearm: Could be phlebitis vs cellulitis. Starting
   vanco for HAP, which will cover cellulitis
   # RML/ LLL pneumonia: Hospital acquired.  Stable resp status.
   Leukocytosis improving
   -          levoflox x 5 days
   -          add vancomycin to cover hosp pna
   -          supplemental O2
   -          BP stable, afebrile
   # DM
   -          ISS
   -          FS QID, diabetic diet while eating
   #  sacral ulcer: continue wound care
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-6**] 12:00 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Call out to [**Hospital Unit Name 4282**]([**Hospital1 2259**])

2104-12-08 11:51:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year old woman PMH afib, CAD, HTN presented in afib with RVR. Please
   see previous notes for details.
   24 Hour Events:
   Amiodrone increased to 400 tid
   EP consulted for possible cardioversion
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash; Wheezing;
   Tetracyclines
   Rash; Wheezing;
   Erythromycin Base
   Rash;
   Optiray 350 (Intraven.) (Ioversol)
   Hives;
   Lisinopril
   Unknown;
   Diltiazem
   Unknown;
   Bee Sting Kit
   Unknown;
   Citrus Derived
   Unknown;
   Fish Product Derivatives
   Unknown;
   Shellfish Derived
   Unknown;
   Iodine Containing Agents Classifier
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-6**] 09:06 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-7**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-8**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 110 (101 - 139) bpm
   BP: 109/92(96) {95/50(60) - 124/107(110)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 84.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,130 mL
                                                                    388 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    490 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    385 mL
   Urine:
                                                                    875 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : right base), (Breath
   Sounds: Bronchial: Left base)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed, scattered pustules on back, crosses midline,
   non-tender
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   203 K/uL
   114 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   137 mEq/L
   36.0 %
   10.8 K/uL
        [image002.jpg]
                            [**2104-12-5**]  01:24 PM
                            [**2104-12-6**]  05:00 AM
                            [**2104-12-6**]  02:30 PM
                            [**2104-12-7**]  02:46 AM
                            [**2104-12-8**]  04:03 AM
                            [**2104-12-8**]  06:05 AM
   WBC
   14.3
   12.5
   10.8
   Hct
   38.2
   35.9
   39.2
   36.5
   36.0
   Plt
   188
   200
   203
   Cr
   0.9
   0.9
   0.9
   TropT
   0.01
   Glucose
   135
   122
   114
   Other labs: PT / PTT / INR:36.8/38.7/3.9, CK / CKMB /
   Troponin-T:84//0.01, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   67 year old woman with known afib presents with HAP and afib with RVR.
   Hypotension in the setting of RVR. On day three of levofloxacin. Would
   add vancomycin for additional coverage of hospial acquired flora and
   for possible staph/strep infection on back. RVR treated with nodal
   agents, doubt ability to get perfect control inthe setting of acute
   infection. Would tolerate HR in ~ 110. Apreciate cardiology input.
   Further plans as per resident note. Can transfer to cardiology service
   today.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2104-12-6**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, on hold pending decrease
   in INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor - Cardiology service
   Total time spent: 30 minutes